US06747023B1
1-Benzyl-4-[(5-chloroisoindol-2-yl)sulfonyl]piperazine
In ethanol (5 ml), 1-benzyl-4-sulfamoylpiperazine (251 mg) was dissolved. To the resulting solution, 3,4-bis(bromomethyl)-1-chlorobenzene (293 mg) and potassium carbonate (204 mg) were added, followed by heating under reflux for 3.5 hours. After cooling, the precipitate was filtered off. The filtrate was then distilled under reduced pressure and the residue was purified by chromatography on a silica gel column (dichloromethane˜ethanol:dichloromethane=1:100), whereby the title compound (222 mg, 58%) was obtained.

reactant | 1-benzyl-4-sulfamoylpiperazine | 251 mg | C(C1=CC=CC=C1)N1CCN(CC1)S(N)(=O)=O | C11H17N3O2S
reactant | 3,4-bis(bromomethyl)-1-chlorobenzene | 293 mg | BrCC=1C=C(C=CC1CBr)Cl | C8H7Br2Cl
reactant | potassium carbonate | 204 mg | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-Benzyl-4-[(5-chloroisoindol-2-yl)sulfonyl]piperazine | C(C1=CC=CC=C1)N1CCN(CC1)S(=O)(=O)N1C=C2C=CC(=CC2=C1)Cl | C19H20ClN3O2S
